US07208524B2
To a solution of 0.300 g of tert-butyl N-[2-(2-benzyloxy-4-isopropylphenyl)ethyl]carbamate in 2 mL of ethanol was added 2 mL of 21% hydrogen chloride ethanol solution at room temperature. After being stirred at the same temperature for 2 hours, the reaction mixture was concentrated under reduced pressure to give 0.261 g of 2-(2-benzyloxy-4-isopropylphenyl)ethylamine hydrochloride.

reactant | tert-butyl N-[2-(2-benzyloxy-4-isopropylphenyl)ethyl]carbamate | 0.300 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCNC(OC(C)(C)C)=O | C23H31NO3
reactant | hydrogen chloride ethanol | 2 mL | C(C)O.Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(2-benzyloxy-4-isopropylphenyl)ethylamine hydrochloride | 0.261 g | Cl.C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCN | InChI=1S/C18H23NO.ClH/c1-14(2)17-9-8-16(10-11-19)18(12-17)20-13-15-6-4-3-5-7-15;/h3-9,12,14H,10-11,13,19H2,1-2H3;1H
